*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :4532M(1812)/U2J(-55to125[deg])/4.70e-03[uF]/1000[V]
* Murata P/N :GRM43D7U3A472JW31
* Property : C = 4.70e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM43D7U3A472JW31 Port1 Port2
C01 Port1 N01 4.57e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 5.33e-11
R03 N02 N03 3.77e-03
L04 N03 N04 1.85e-10
R04 N03 N04 6.42e-01
L05 N04 N05 4.27e-11
R05 N04 N05 4.36e-03
C06 N05 N06 9.02e-09
L06 N05 N06 1.14e-10
R06 N05 N06 1.73e+00
C07 N06 N07 4.08e-09
L07 N06 N07 9.44e-11
R07 N06 N07 1.38e+00
C08 N07 N08 1.20e-08
L08 N07 N08 1.51e-11
R08 N07 N08 4.89e-01
C09 N08 N09 8.10e-09
L09 N08 N09 1.36e-11
R09 N08 N09 4.20e-01
C10 N09 Port2 2.22e-12
L10 N09 Port2 3.61e-10
R10 N09 Port2 3.04e+02
.ENDS GRM43D7U3A472JW31
